US08349880B2
Step A (2): Iron powder-325 mesh (4.6 g, 82 mmol) was added to a 500 mL round bottom flask charged with a mixture of 4-chloro-1-(2-methoxy-4-nitrophenyl)-1H-imidazole (5.2 g, 20.5 mmol), absolute ethanol (100 mL), and glacial acetic acid (50 mL). A water-cooled reflux condenser was attached to the flask and the heterogeneous mixture was heated to 100° C. with vigorous stirring for 30 min. The reaction mixture allowed to cool to rt and was added to a chilled and stirred solution of 3 M NaOH (291 mL). The resulting mixture was poured into a separatory funnel and extracted with EtOAc (3×250 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (4.57 g, 97% yield) as a solid. LC-MS (M+H)+ 224.0. 1H NMR (500 MHz, chloroform-d) δ ppm 7.47 (d, J=1.22 Hz, 1 H) 7.00 (d, J=8.24 Hz, 1 H) 6.99 (d, J=1.53 Hz, 1 H) 6.32 (d, J=2.44 Hz, 1 H) 6.29 (dd, J=8.24, 2.44 Hz, 1 H) 3.88 (br. s., 2 H) 3.78 (s, 3 H).

reactant | 4-chloro-1-(2-methoxy-4-nitrophenyl)-1H-imidazole | 20.5 mmol, 5.2 g | ClC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C10H8ClN3O3
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 3 M, 291 mL | [OH-].[Na+]
catalyst | Iron | [Fe] | Fe
solvent | water | O | H2O
product | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 4.57 g, 97% yield | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
